US07625901B2
Step A. (±)-(2-Oxo-6-phenylpiperidin-1-yl)acetic acid
To a stirred solution of (±)-6-phenylpiperidin-2-one (155 mg, 0.885 mmol) in THF (10 mL), cooled to 0° C., was added NaH (30.0 mg, 1.24 mmol). The ice bath was removed and the reaction was allowed to warm to ambient temperature. After 1 h at ambient temperature, the reaction was cooled to 0° C. prior to the introduction of methyl bromoacetate (149 mg, 0.973 mmol). After 40 minutes, the ice bath was removed and the reaction was stirred under nitrogen for 12 h. Additional quantities of NaH and methyl bromoacetate were then added in parts to nearly consume the lactam, as judged by LCMS analysis. After sufficient lactam was consumed, 1 M aqueous sodium hydroxide was added (1 mL, 1 mmol). After a majority of the methyl ester was saponified (˜3 h), the reaction was quenched with 1 M hydrochloric acid (5 mL), and EtOAc (50 mL). The organics were washed with saturated brine (twice), dried over sodium sulfate, filtered and concentrated in vacuo, to yield a residue which was used without further purification. MS: m/z=234 (M+1).

reactant | (±)-6-phenylpiperidin-2-one | 0.885 mmol, 155 mg | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
reactant | NaH | 1.24 mmol, 30.0 mg | [H-].[Na+]
reactant | methyl bromoacetate | 0.973 mmol, 149 mg | BrCC(=O)OC | C3H5BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-(2-Oxo-6-phenylpiperidin-1-yl)acetic acid | O=C1N(C(CCC1)C1=CC=CC=C1)CC(=O)O | C13H15NO3
